US04775674
Sodium borohydride (1.00 g, 26 mmol) was added portionwise to a stirred suspension of 1,3-dihydro-7-(4-oxopentoxy)-2H-imidazo[4,5-b]quinolin-2-one (3.70 g, 13 mmol) in methanol (85 mL) and dimethylformamide (85 mL). The mixture was stirred at room temperature for 3 hours and then the solvent removed in vacuo. The residual oil was triturated with water (50 mL) and the solid material filtered off, washed with water and dried in air. Crystallization from aqueous dimethylformamide followed by trituration with methanol afforded 1,3-dihydro-7-(4-hydroxypentoxy)-2H-imidazo[4,5-b]-quinolin-2-one (3.20 g, 86%), m.p. 301°-303° C.

reactant | Sodium borohydride | 26 mmol, 1.00 g | [BH4-].[Na+]
reactant | 1,3-dihydro-7-(4-oxopentoxy)-2H-imidazo[4,5-b]quinolin-2-one | 13 mmol, 3.70 g | O=C(CCCOC1=CC=2C=C3C(=NC2C=C1)NC(N3)=O)C | C15H15N3O3
solvent | methanol | 85 mL | CO | CH4O
solvent | dimethylformamide | 85 mL | CN(C=O)C | C3H7NO
product | 1,3-dihydro-7-(4-hydroxypentoxy)-2H-imidazo[4,5-b]-quinolin-2-one | 3.20 g, 86% | OC(CCCOC1=CC=2C=C3C(=NC2C=C1)NC(N3)=O)C | C15H17N3O3
